2138-03-04 06:34:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Dr. [**Last Name (STitle) 5357**] spoke with the patient in the evening.  Will start
   avastin tomorrow.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2138-3-3**] 08:19 AM
   Heparin Sodium (Prophylaxis) - [**2138-3-3**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-3-4**] 06:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 36
C (96.8
   HR: 54 (39 - 76) bpm
   BP: 106/62(72) {99/60(69) - 114/71(81)} mmHg
   RR: 16 (12 - 23) insp/min
   SpO2: 97%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 72 Inch
             Total In:
                                                                  1,855 mL
                                                                    275 mL
   PO:
                                                                  1,480 mL
                                                                    150 mL
   TF:
   IVF:
                                                                    375 mL
                                                                    125 mL
   Blood products:
   Total out:
                                                                  2,700 mL
                                                                    200 mL
   Urine:
                                                                  2,250 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -845 mL
                                                                     75 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///21/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, has left frontal scalp
   stitches in place; wound is C/D/I
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), No(t) S3,
   No(t) S4
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): A/O x 3, Movement: Purposeful, Tone: Normal,
   [**6-10**] motor strength BUE/BLE. Reflex 2+ BLE. some difficulty with word
   finding noted; neologism present.
   Labs / Radiology
   221 K/uL
   13.4 g/dL
   121 mg/dL
   0.8 mg/dL
   21 mEq/L
   3.7 mEq/L
   12 mg/dL
   108 mEq/L
   140 mEq/L
   38.2 %
   3.4 K/uL
        [image002.jpg]
                             [**2138-3-4**]  02:45 AM
   WBC
   3.4
   Hct
   38.2
   Plt
   221
   Cr
   0.8
   Glucose
   121
   Other labs: PT / PTT / INR:12.8/27.2/1.1, Ca++:9.6 mg/dL, Mg++:2.4
   mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
   46 yo M with left temporal lobe mass previously anaplastic astrocytoma
   with repeat biopsy concerning for GBM, also with h/o seizures secondary
   to [**Hospital **] transferred to [**Hospital Unit Name 1**] for potential new chemotherapeutic [**Doctor Last Name **].
   # Left Temporal Mass:  transferred for NSGY service; prelim path
   concerning for GBM transformation of mass.  Recent word finding
   difficulty thought to be possibly a seizure, but EEG currently
   pending.  Patient is on currently on antiepileptic agents.  Dr.
   [**Last Name (STitle) 2322**] following patient for possible chemotherapy (Avastin)
   previously had XRT and Tenodar.
   - d/w Dr. [**Last Name (STitle) 2322**] regarding chemotherapy; will have family meeting to
   discuss options
   - cont mannitol q6H with f/u osms/Na per NSGY
   - dexamethasone 4 mg Q6H
   - f/u NSGY recs
   - f/u neuro/epilepsy recs
   - f/u EEG
   - q4H neurochecks
   # Seizure: EEG pending; currently on antiepilectics
   - cont Keppra, Ativan, and Zonegran per epilepsy service
   - q4H neurochecks
   - cont dex/mannitol
   - currently no e/o seizure
   #. Leukopenia: likely [**3-10**] chemotherapeutic agents.
   - currently at baseline; not neutropenic. cont to trend
   # Code: FULL CODE
   # Comm:  with patient and sister- HCP [**First Name8 (NamePattern2) 1705**] [**Name (NI) 5332**] [**Telephone/Fax (1) 5348**])
   ICU Care
   Nutrition: Regular diet
   Glycemic Control:
   Lines:
   18 Gauge - [**2138-3-3**] 07:23 AM
   Prophylaxis:
   DVT: SQH
   Stress ulcer: PPI
   VAP:  NA
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU for now

2138-03-04 09:23:00 Physician Attending Progress Note
Chief Complaint: CNS Malignancy
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   patient without significant change in exam overnight
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2138-3-3**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Eyes: No(t)  Blurry vision
   Respiratory: No(t) Cough
   Gastrointestinal: No(t) Abdominal pain
   Flowsheet Data as of  [**2138-3-4**] 09:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 36.1
C (97
   HR: 59 (40 - 76) bpm
   BP: 111/77(85) {99/60(69) - 114/77(85)} mmHg
   RR: 16 (12 - 23) insp/min
   SpO2: 97%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 72 Inch
             Total In:
                                                                  1,855 mL
                                                                    275 mL
   PO:
                                                                  1,480 mL
                                                                    150 mL
   TF:
   IVF:
                                                                    375 mL
                                                                    125 mL
   Blood products:
   Total out:
                                                                  2,700 mL
                                                                    600 mL
   Urine:
                                                                  2,250 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -845 mL
                                                                   -325 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///21/
   Physical Examination
   Head, Ears, Nose, Throat: incision cdi in scalp
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Percussion: Resonant : ), (Breath Sounds: Clear :
   )
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed, persistent word
   finding difficulties, symmetric strength
   Labs / Radiology
   13.4 g/dL
   221 K/uL
   121 mg/dL
   0.8 mg/dL
   21 mEq/L
   3.7 mEq/L
   12 mg/dL
   108 mEq/L
   139 mEq/L
   38.2 %
   3.4 K/uL
        [image002.jpg]
                             [**2138-3-4**]  02:45 AM
   WBC
   3.4
   Hct
   38.2
   Plt
   221
   Cr
   0.8
   Glucose
   121
   Other labs: PT / PTT / INR:12.8/27.2/1.1, Ca++:9.6 mg/dL, Mg++:2.4
   mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
   46 yo male with GBM on biopsy prelim read now transfer to ICU for close
   monitoring and chemotherapy dosing with close monitoring for
   complications such as bleeding.  He has had ongoing support with
   mannitol and hypertonic saline with acceptable parameters O/N.
 CANCER (MALIGNANT NEOPLASM), BRAIN-
   -Patient with decision to proceed with chemotherapy under guidance of
   Dr. [**Last Name (STitle) 5366**]
   [**Name (STitle) 5367**] ordered by oncology nurse
   -Leukopenia stable today
   Cerebral Edema-
   -Mannitol
   -Will maintain target of Na <150 and Osms <320 under current dosing
   -Dex 4mg q 6 hours
   Seizure Disorder-
   -Keppra
   -Ativan
   -Zonigran
   -q 4 hour neuro checks
   -No evidence of seizure clinically and will need follow up on EEG final
   read
   ICU Care
   Nutrition:
   Glycemic Control:  Insulin SS
   Lines:
   18 Gauge - [**2138-3-3**] 07:23 AM
   Prophylaxis:
   DVT: SQ UF Heparin
D/C sq heparin and move to boots today
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2138-03-05 06:55:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - started chemo - avastin and irinotecan
   - NSG recs: mannitol [**Hospital1 **] with [**Hospital1 **] Na and sOSM
   - had neuro exam change, was a/o x1 tonight, unable to recall objects -
   ordered STAT head CT but patient refused, had to call Dr. [**Last Name (STitle) **]. and she
   convinced him to do it - went down this morning for it
   -CT reads unchanged midline shift
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Atropine - [**2138-3-4**] 11:20 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-3-5**] 06:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 36
C (96.8
   HR: 46 (40 - 76) bpm
   BP: 103/64(73) {97/60(70) - 117/77(86)} mmHg
   RR: 15 (11 - 29) insp/min
   SpO2: 97%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 72 Inch
                  Total In:
                                                                  1,140 mL
                                                                    600 mL
   PO:
                                                                    890 mL
                                                                    600 mL
   TF:
   IVF:
                                                                    250 mL
   Blood products:
   Total out:
                                                                  2,350 mL
                                                                    900 mL
   Urine:
                                                                  2,350 mL
                                                                    900 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,210 mL
                                                                   -300 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///22/
   Physical Examination
   General Appearance: Middle-aged male lying in bed in NAD
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, has left frontal scalp
   stitches in place; wound is C/D/I
   Cardiovascular: RRR, no MRG
   Respiratory / Chest: CTAB
   Abdominal: +BS, soft, NTND
   Extremities: No edema present
   Skin:  Warm
   Neurologic: Alert, Follows commands, [**6-10**] motor strength BUE/BLE, normal
   sensation to light touch intact throughout.  CN grossly intact.
   Deficits noted with short term memory recall and concentration with
   mathematical question. Findings were present on admission so
   essentially unchanged,
   Labs / Radiology
   216 K/uL
   13.7 g/dL
   103 mg/dL
   0.9 mg/dL
   22 mEq/L
   3.9 mEq/L
   14 mg/dL
   107 mEq/L
   140 mEq/L
   39.2 %
   3.7 K/uL
        [image002.jpg]
                             [**2138-3-4**]  02:45 AM
                             [**2138-3-5**]  05:05 AM
   WBC
   3.4
   3.7
   Hct
   38.2
   39.2
   Plt
   221
   216
   Cr
   0.8
   0.9
   Glucose
   121
   103
   Other labs: PT / PTT / INR:13.0/26.7/1.1, ALT / AST:[**11-17**], Alk Phos / T
   Bili:55/0.3, Amylase / Lipase:34/, Albumin:4.5 g/dL, LDH:119 IU/L,
   Ca++:9.1 mg/dL, Mg++:2.3 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
 CANCER (MALIGNANT NEOPLASM), BRAIN
   46 yo M with left temporal lobe mass previously anaplastic astrocytoma
   with repeat biopsy concerning for GBM, also with h/o seizures secondary
   to [**Hospital **] transferred to [**Hospital Unit Name 1**] for monitoring during treatment with
   avastin.
   # Left Temporal Mass:  transferred for NSGY service; prelim path
   concerning for GBM transformation of mass.  Word finding difficulties
   still perisis. The concerning event last ngiht appears to be resolved
   pt shows unchanged neuro examination since admission to the unit, CT
   head also reassuring as it is unchanged.  Patient is on currently on
   antiepileptic agents, question as to whether pt
s episode last night
   was [**3-10**]/ Benzos (Ativan), will discuss with epilepsy service whether
   Ativan can be d/c
d.  Dr. [**Last Name (STitle) 2322**] is the neuro oncologist following
   the pt, pt is on CPT 11 and Avastin. Will need to monitor adverse
   effects such as profuse diarrhea, hypertensive urgency,
   - Per Dr. [**Last Name (STitle) 2322**] continue Avastin and irinotecan treatment.
   - Morphine prn for HA
   - Zofran prn for nausea
   - Mannitol reduced to [**Hospital1 7**] dosing to decrease intracranial pressure;
   will check [**Hospital1 7**] check Sosm and Sna prior to each dose and hold for Na >
   150 or Osm > 320.
   - dexamethasone 4 mg Q6H
   - f/u neuro/epilepsy recs
   - q4H neurochecks
   # Seizure: EEG pending; currently on antiepilectics
   -cont Keppra, Ativan, and Zonegran per epilepsy service. Will discuss,
   as mentioned above, whether pt could be transitioned off of Ativan.
   - q4H neurochecks
   - cont dex/mannitol
   - currently no e/o seizure
   #. Leukopenia: likely [**3-10**] chemotherapeutic agents.
   - currently at baseline; not neutropenic. cont to trend
   # Code: FULL CODE
   # Comm:  with patient and sister- HCP [**First Name8 (NamePattern2) 1705**] [**Name (NI) 5332**] [**Telephone/Fax (1) 5348**])
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2138-3-4**] 09:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2138-03-05 11:00:00 Physician Attending Progress Note
Chief Complaint: GBM
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   CT Head without significnat change with in edema or mass size--this was
   in the setting of suggestion of fluctuating right sided weakness
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Atropine - [**2138-3-4**] 11:20 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-3-5**] 10:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 36.3
C (97.3
   HR: 69 (41 - 76) bpm
   BP: 102/53(65) {97/53(58) - 117/80(88)} mmHg
   RR: 20 (11 - 29) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                  1,140 mL
                                                                  1,725 mL
   PO:
                                                                    890 mL
                                                                  1,100 mL
   TF:
   IVF:
                                                                    250 mL
                                                                    625 mL
   Blood products:
   Total out:
                                                                  2,350 mL
                                                                  1,320 mL
   Urine:
                                                                  2,350 mL
                                                                  1,320 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,210 mL
                                                                    405 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 91%
   ABG: ///22/
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Musculoskeletal: Unable to stand
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Oriented (to): Place, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   13.7 g/dL
   216 K/uL
   103 mg/dL
   0.9 mg/dL
   22 mEq/L
   3.9 mEq/L
   14 mg/dL
   107 mEq/L
   140 mEq/L
   39.2 %
   3.7 K/uL
        [image002.jpg]
                             [**2138-3-4**]  02:45 AM
                             [**2138-3-5**]  05:05 AM
   WBC
   3.4
   3.7
   Hct
   38.2
   39.2
   Plt
   221
   216
   Cr
   0.8
   0.9
   Glucose
   121
   103
   Other labs: PT / PTT / INR:13.0/26.7/1.1, ALT / AST:[**11-17**], Alk Phos / T
   Bili:55/0.3, Amylase / Lipase:34/, Albumin:4.5 g/dL, LDH:119 IU/L,
   Ca++:9.1 mg/dL, Mg++:2.3 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   46 yo male with CNS malignancy and now with start of chemotherapeutic
   regimen.  This has been reasonably well tolerated although patient does
   have some persistnet difficulty with word finding and recall.  Focal
   motor deficits are not seen through to this morning.
 CANCER (MALIGNANT NEOPLASM), BRAIN
With associated edema
on repeat CT
   scan patient with reasonable stability in regards to edema despite
   changes in exam.  In this setting he did have altered mental status but
   this is temporally most clearly related to Ativan dosing interval.
   -Dex 4mg q 6 hours
   -Mannitol 25g IV q 12 hrs
   -MRI today to establish baseline tumor status
   -Will discuss hold of Ativan
   Seizure Disorder
   -Keppra
   -Lorazepam
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2138-3-4**] 09:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2138-03-06 06:55:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 MAGNETIC RESONANCE IMAGING - At [**2138-3-5**] 11:00 AM
   MRI of brain
   - CT head showed no decrease in midline shift from prior CT scan
   - MRI showed increased herniation when compared to an older MRI ([**2-17**])
   discussed with Dr. [**Last Name (STitle) 2322**]. Prior MRI innaccurate as it predates his
   initial change, recommended following clinical status
   - NSG recommended Mannitol wean, last dose tomorrow
   - If pt tolerates wean of Mannitol candidate for floor status either
   Thursday PM or Friday AM
   - Next chemo not due for another two weeks
   - [**Name (NI) 434**] sister will be here Thursday 1400 to discuss updates
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-3-6**] 06:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 36.3
C (97.4
   HR: 44 (42 - 84) bpm
   BP: 104/65(75) {92/36(58) - 128/80(88)} mmHg
   RR: 19 (9 - 24) insp/min
   SpO2: 97%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 68.7 kg (admission): 74.6 kg
   Height: 72 Inch
                  Total In:
                                                                  2,565 mL
                                                                    580 mL
   PO:
                                                                  1,890 mL
                                                                    580 mL
   TF:
   IVF:
                                                                    675 mL
   Blood products:
   Total out:
                                                                  2,870 mL
                                                                  1,200 mL
   Urine:
                                                                  2,870 mL
                                                                  1,200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -305 mL
                                                                   -620 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///21/
   Physical Examination
   General Appearance: NAD, middle aged male
   Eyes / Conjunctiva: PERRL, EOMI
   Head, Ears, Nose, Throat: Normocephalic, has left frontal scalp
   stitches in place; wound is C/D/I
   Cardiovascular: regular rate, no mrg
   Respiratory / Chest: clear bilaterally
   Abdominal: +BS, soft, NTND
   Extremities: No edema present
   Skin:  Warm
   Neurologic: Alert, oriented to person, place, time and purpose
   Labs / Radiology
   223 K/uL
   14.0 g/dL
   111 mg/dL
   0.8 mg/dL
   21 mEq/L
   3.9 mEq/L
   14 mg/dL
   105 mEq/L
   136 mEq/L
   38.7 %
   2.8 K/uL
        [image002.jpg]
                             [**2138-3-4**]  02:45 AM
                             [**2138-3-5**]  05:05 AM
                             [**2138-3-6**]  04:39 AM
   WBC
   3.4
   3.7
   2.8
   Hct
   38.2
   39.2
   38.7
   Plt
   221
   216
   223
   Cr
   0.8
   0.9
   0.8
   Glucose
   121
   103
   111
   Other labs: PT / PTT / INR:12.6/27.4/1.1, ALT / AST:[**11-17**], Alk Phos / T
   Bili:55/0.3, Amylase / Lipase:34/, Albumin:4.5 g/dL, LDH:119 IU/L,
   Ca++:9.0 mg/dL, Mg++:2.3 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
 BRADYCARDIA
 CANCER (MALIGNANT NEOPLASM), BRAIN
   46 yo M with left temporal lobe mass previously anaplastic astrocytoma
   with repeat biopsy concerning for GBM, also with h/o seizures secondary
   to [**Hospital **] transferred to [**Hospital Unit Name 1**] for monitoring during treatment with
   avastin.
   # Left Temporal Mass:  transferred for NSGY service; prelim path
   concerning for GBM transformation of mass.  Word finding difficulties
   still perisis. The concerning event last ngiht appears to be resolved
   pt shows unchanged neuro examination since admission to the unit, CT
   head also reassuring as it is unchanged.  Patient is on currently on
   antiepileptic agents, question as to whether pt
s episode last night
   was [**3-10**]/ Benzos (Ativan), will discuss with epilepsy service whether
   Ativan can be d/c
d.  Dr. [**Last Name (STitle) 2322**] is the neuro oncologist following
   the pt, pt is on CPT 11 and Avastin. Will need to monitor adverse
   effects such as profuse diarrhea, hypertensive urgency,
   - Per Dr. [**Last Name (STitle) 2322**] continue Avastin and irinotecan treatment.
   - Morphine prn for HA
   - Zofran prn for nausea
   - Mannitol reduced to [**Hospital1 7**] dosing to decrease intracranial pressure;
   will check [**Hospital1 7**] check Sosm and Sna prior to each dose and hold for Na >
   150 or Osm > 320.
   - dexamethasone 4 mg Q6H
   - f/u neuro/epilepsy recs
   - q4H neurochecks
   # Seizure: EEG pending; currently on antiepilectics
   -cont Keppra, Ativan, and Zonegran per epilepsy service. Will discuss,
   as mentioned above, whether pt could be transitioned off of Ativan.
   - q4H neurochecks
   - cont dex/mannitol
   - currently no e/o seizure
   #. Leukopenia: likely [**3-10**] chemotherapeutic agents.
   - currently at baseline; not neutropenic. cont to trend
   # Code: FULL CODE
   # Comm:  with patient and sister- HCP [**First Name8 (NamePattern2) 1705**] [**Name (NI) 5332**] [**Telephone/Fax (1) 5348**])
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2138-3-4**] 09:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: likely transfer to floor later today

2138-03-06 10:13:00 Physician Attending Progress Note
Chief Complaint: GBM---CNS Malignancy
   Altered Mental Status
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 MAGNETIC RESONANCE IMAGING - At [**2138-3-5**] 11:00 AM
   MRI of brain
 CALLED OUT
   MRI without significant change in shift/tumor
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-3-6**] 10:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 35
C (95
   HR: 54 (42 - 84) bpm
   BP: 115/79(88) {92/36(61) - 128/79(88)} mmHg
   RR: 17 (9 - 24) insp/min
   SpO2: 97%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 68.7 kg (admission): 74.6 kg
   Height: 72 Inch
                  Total In:
                                                                  2,565 mL
                                                                    820 mL
   PO:
                                                                  1,890 mL
                                                                    820 mL
   TF:
   IVF:
                                                                    675 mL
   Blood products:
   Total out:
                                                                  2,870 mL
                                                                  1,700 mL
   Urine:
                                                                  2,870 mL
                                                                  1,700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -305 mL
                                                                   -880 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///21/
   Physical Examination
   Cardiovascular: (S1: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): Place, Movement: Not assessed, Tone: Not
   assessed
   Labs / Radiology
   14.0 g/dL
   223 K/uL
   111 mg/dL
   0.8 mg/dL
   21 mEq/L
   3.9 mEq/L
   14 mg/dL
   105 mEq/L
   136 mEq/L
   38.7 %
   2.8 K/uL
        [image002.jpg]
                             [**2138-3-4**]  02:45 AM
                             [**2138-3-5**]  05:05 AM
                             [**2138-3-6**]  04:39 AM
   WBC
   3.4
   3.7
   2.8
   Hct
   38.2
   39.2
   38.7
   Plt
   221
   216
   223
   Cr
   0.8
   0.9
   0.8
   Glucose
   121
   103
   111
   Other labs: PT / PTT / INR:12.6/27.4/1.1, ALT / AST:[**11-17**], Alk Phos / T
   Bili:55/0.3, Amylase / Lipase:34/, Albumin:4.5 g/dL, LDH:119 IU/L,
   Ca++:9.0 mg/dL, Mg++:2.3 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
   46 yo male with CNS malignancy titled GBM on recent biopsy with
   reasonable tolerance of initial chemotheraphy RX with examination and
   imaging showing minimal change in mass which is not unexpected.  He has
   some persistent control of edema with decreasing Mannitol dosing.
   1)CNS Malignancy/Cerebral Edema-Patient with initiation of therapy with
   good tolerance of therapy
   -Mannitol to wean today
   -Dexamethasone to continue
   -F/U Chemo in 2 weeks
   2)Seizure Disorder-
   -Lorazepam
   -Keppra
   -Zonegran (sp?) all to continue
   3) BRADYCARDIA
 CANCER (MALIGNANT NEOPLASM), BRAIN
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2138-3-4**] 09:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : To Floor
   Total time spent: 35